US04159279
To a cold (0°-5° C.) suspension of 4-(1,1-dimethylethyl)phenol (7.5 g., 0.05 mole) and phosphorous oxychloride (8 ml.) in 70% perchloric acid (10 ml.) is added dimethylsulfoxide (3.9 g., 0.05 mole) dropwise with vigorous stirring. The resulting reaction mixture is stirred at 0°-5° C. for 1 hour and at 20° C. for 16 hours and then poured onto crushed ice whereupon a gum separates. Upon warming to 20° C. with vigorous stirring there is obtained a white solid which is collected, washed with cold water, air dried at 20° C. with aspiration and washed with ether. The white solid (10 g., m.p. 160° C.) is added to saturated aqueous potassium chloride (100 ml.) and the resulting mixture, heated at reflux for 4 hours. After standing at 20° C. for 12 hours, the reaction mixture is extracted with ether. The ethereal extract is washed with water and saturated brine, dried over sodium sulfate and filtered. Evaporation of the filtrate in vacuo leaves 2-methylthio-4-(1,1-dimethylethyl)phenol as an analytically pure, colorless oil (5.7 g., 58%).

reactant | 4-(1,1-dimethylethyl)phenol | 0.05 mole, 7.5 g | CC(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | phosphorous oxychloride | 8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylsulfoxide | 0.05 mole, 3.9 g | CS(=O)C | C2H6OS
solvent | perchloric acid | 10 ml | Cl(=O)(=O)(=O)O | ClHO4
product | 2-methylthio-4-(1,1-dimethylethyl)phenol | CSC1=C(C=CC(=C1)C(C)(C)C)O | C11H16OS
